US08859555B2
To a cooled solution of tert-butyl (S)-1-(2-((trans)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropylamino)ethyl)pyrrolidin-3-ylcarbamate (400 mg) in dioxane (5 mL) at 0° C., HCl in 1,4 dioxane (5 mL) was added and stirred for 16 h at RT. The progress of the reaction was monitored by TLC. After completion, the solvent was evaporated, residue was triturated with Et2O to get (S)-1-(2-((trans)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropylamino)ethyl)pyrrolidin-3-amine hydrochloride (250 mg, 62%) as a white solid.

reactant | tert-butyl (S)-1-(2-((trans)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropylamino)ethyl)pyrrolidin-3-ylcarbamate | 400 mg | FC(C=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]1[C@@H](C1)NCCN1C[C@H](CC1)NC(OC(C)(C)C)=O)(F)F | C27H34F3N3O2
reactant | HCl | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4 dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (S)-1-(2-((trans)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropylamino)ethyl)pyrrolidin-3-amine hydrochloride | 250 mg, 62% | Cl.FC(C=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]1[C@@H](C1)NCCN1C[C@H](CC1)N)(F)F | InChI=1S/C22H26F3N3.ClH/c23-22(24,25)18-3-1-2-17(12-18)15-4-6-16(7-5-15)20-13-21(20)27-9-11-28-10-8-19(26)14-28;/h1-7,12,19-21,27H,8-11,13-14,26H2;1H/t19-,20-,21+;/m0./s1
